* Reference solution for benchmarks/design-agent/tasks/telescopic-cascode-amp.json.
*
* Single-ended TELESCOPIC cascode gain stage: an NMOS common-source input
* device (M1) with an NMOS cascode (M2) stacked directly on top of it, and
* a PMOS cascode current-source load (M4 current source + M3 cascode)
* stacked down from the supply -- "telescopic" precisely because the signal
* current never leaves the M1->M2 stack (a folded cascode would instead
* route it through an opposite-type device off a separate current-source
* branch). Stacking both cascodes multiplies the output resistance by each
* cascode device's own intrinsic gain, which is the whole point of the
* topology and what this task's >= 85 dB gate is written to require: the
* same stage with M2/M3 removed (plain common-source, same current, same
* PMOS current-source load) measures ~46 dB here, far below the gate.
*
* Biasing, corner by corner:
*   - Lfb closes a DC feedback loop from out back to the input gate (a
*     short at DC, ~6e12 ohm at 1 kHz), so V(gate) = V(out) at DC and the
*     stage self-biases to whatever Vgs M1 needs to carry the load branch's
*     current -- no fixed external gate-bias generator that a Vt corner
*     could push out of saturation. Cin AC-couples the stimulus in, so the
*     AC drive never disturbs that operating point. Same trick as
*     examples/kb/five-transistor-ota/ota_5t.spice's Lfb/Cfb pair, and the
*     single-ended analogue of common-source-amp's Rf self-bias (a resistor
*     is not usable here: any Rf small enough to bias would also swamp this
*     stage's ~2e8 ohm output resistance at AC).
*   - Mbn/Ibn set the NMOS cascode gate bias one Vgs above ground at a
*     deliberately high overdrive (narrow device), so V(n1) lands ~0.1 V
*     above M1's own Vdsat and tracks Vtn across corners.
*   - Mbp1/Ibp1 set the PMOS current-source gate bias (M4 mirrors Ibp1 1:1
*     at matched W/L); Mbp2/Ibp2 set the PMOS cascode gate bias from a
*     deliberately narrower device, i.e. the textbook wide-swing cascode
*     bias (Vsg = |Vtp| + ~2*Vov), which keeps M4's Vsd near its own
*     overdrive instead of a full Vsg and leaves the output headroom the
*     bias_gate below checks for.
*
* Two testbenches score this one body: sim_request_gain.json (AC, the
* small-signal gain gate) and sim_request_bias.json, which reads the
* self-biased operating point back out. The latter runs a `dc` sweep of
* Vin -- deliberately a no-op sweep, since Cin blocks Vin at DC, so every
* sweep point re-solves the same operating point and `.meas dc ... AT=0`
* reads it. That is the only way to get a node's DC voltage through a
* `.meas` card at all: ngspice implements no `.MEASURE OP` (see
* docs/cli/sim.md's `measurements[]` note).
*
* Circuit body only: no .control/.end cards (klt sim generates those --
* see docs/cli/sim.md, "Netlist convention"). Real sky130 devices
* (sky130_fd_pr__nfet_01v8 / sky130_fd_pr__pfet_01v8) via $PDK_ROOT, per
* docs/cli/sim.md -- see sim_request_*.json's "models" field. Device
* W/L are in microns (sky130_fd_pr subckt convention, bare numbers not
* "u"-suffixed). All four cascode-stack devices (M1-M4) are run at a
* longer channel length (4 um) than the generic-model reference to buy
* back output-resistance headroom a real short-channel device needs to
* clear this task's 85 dB gate -- empirically, gain vs. L is
* non-monotonic for this stack (L=2 measures ~82 dB, L=4 ~90 dB, L=6
* ~82 dB again at the nominal corner), so L=4 was chosen by direct
* measurement, not extrapolated from a monotonic ro-vs-L assumption.

.param vdd=1.8
.param ibias=20u

* --- supply and AC stimulus (AC-coupled onto the self-biased gate) ---
Vdd vdd 0 DC {vdd}
Vin in 0 DC 0 AC 1
Cin in gate 1e3
Lfb out gate 1e9

* --- bias generators ---
Ibn vdd nbc DC {ibias}
XMbn nbc nbc 0 0 sky130_fd_pr__nfet_01v8 L=1 W=4 nf=1 mult=1
Ibp1 pbs 0 DC {ibias}
XMbp1 pbs pbs vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=100 nf=1 mult=1
Ibp2 pbc 0 DC {ibias}
XMbp2 pbc pbc vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=15 nf=1 mult=1

* --- telescopic cascode gain stage ---
XM1 n1  gate 0   0   sky130_fd_pr__nfet_01v8 L=4 W=40  nf=1 mult=1
XM2 out nbc  n1  0   sky130_fd_pr__nfet_01v8 L=4 W=40  nf=1 mult=1
XM3 out pbc  n2  vdd sky130_fd_pr__pfet_01v8 L=4 W=100 nf=1 mult=1
XM4 n2  pbs  vdd vdd sky130_fd_pr__pfet_01v8 L=4 W=100 nf=1 mult=1
